US09315458B2
L) rac-3-chloro-2-ethenyl-N-(trans-2-hydroxycyclohexyl)-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzamide
To a solution of 3-chloro-2-ethenyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid (0.06 g), trans-2-aminocyclohexanol hydrochloride (0.04 g), 1-hydroxybenzotriazole (0.03 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.05 g) in dichloromethane (10.0 mL) was added triethylamine (0.03 g), and the mixture was stirred at room temperature for 16 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.08 g).

reactant | 3-chloro-2-ethenyl-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid | 0.06 g | ClC=1C(=C(C(=O)O)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)C=C | C20H17ClN2O3
reactant | trans-2-aminocyclohexanol hydrochloride | 0.04 g | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | 1-hydroxybenzotriazole | 0.03 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.05 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 0.03 g | C(C)N(CC)CC | C6H15N
product | rac-3-chloro-2-ethenyl-N-(trans-2-hydroxycyclohexyl)-4-methoxy-5-[4-(1H-pyrazol-1-yl)benzyl]benzamide | 0.08 g | ClC=1C(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C(C1OC)CC1=CC=C(C=C1)N1N=CC=C1)C=C | C26H28ClN3O3
